US04792628
5 Grams of 1-amino-4-methyl-6-α-chloroacetylaminomethyl-7-hydroxyindane hydrochloride and 100 ml of ethanol containing 50 ml of concentrated hydrochloric acid were refluxed by heating for 8 hours. The solvent was removed by evaporation and the residue obtained was washed with ethanol. Recrystallized from methanol-ether to obtain 1 g of 1-amino-methyl-6-aminomethyl-7-hydroxyindane dihydrochloride.

reactant | 1-amino-4-methyl-6-α-chloroacetylaminomethyl-7-hydroxyindane hydrochloride | Cl.NC1CCC2=C(C=C(C(=C12)O)CNC(CCl)=O)C
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1-amino-methyl-6-aminomethyl-7-hydroxyindane dihydrochloride | 1 g | Cl.Cl.NC1(CCC2=CC=C(C(=C12)O)CN)C | InChI=1S/C11H16N2O.2ClH/c1-11(13)5-4-7-2-3-8(6-12)10(14)9(7)11;;/h2-3,14H,4-6,12-13H2,1H3;2*1H
